US07238725B2
N4-(3,5-dichloro-4-pyridyl)-6-chloro-9-(4-methoxybenzyl)-1-methoxy-9H-4-carbazolecarboxamide
To a solution of 4-Nitrophenyl 9-(4-methoxy benzyl)-6-chloro-1-methoxy-4-carbazole carboxylate (95 mg, 0.232 mmoles) in dry DMF (5 ml) under nitrogen atmosphere, 3,5-dichloro-4-amino pyridine (37.8 mg, 0.232 mmoles) was added followed by sodium hydride (60% suspension, 20.0 mg, 0.464 mmoles) and the reaction mixture was stirred at room temperature for two hours. Ice pieces were added to the reaction mixture, diluted with water (15 ml) and neutralized with 1N HCl. The precipitated product was filtered, washed with water and dried under vacuum to give 60 mg of the title compound as an off white solid, m. p: 257-258° C.

reactant | 4-Nitrophenyl 9-(4-methoxy benzyl)-6-chloro-1-methoxy-4-carbazole carboxylate | 0.232 mmoles, 95 mg | COC1=CC=C(CN2C3=CC=C(C=C3C=3C(=CC=C(C23)OC)C(=O)OC2=CC=C(C=C2)[N+](=O)[O-])Cl)C=C1 | C28H21ClN2O6
reactant | 3,5-dichloro-4-amino pyridine | 0.232 mmoles, 37.8 mg | ClC=1C=NC=C(C1N)Cl | C5H4Cl2N2
reactant | sodium hydride | 0.464 mmoles, 20.0 mg | [H-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | water | 15 ml | O | H2O
product | N4-(3,5-dichloro-4-pyridyl)-6-chloro-9-(4-methoxybenzyl)-1-methoxy-9H-4-carbazolecarboxamide | 60 mg | ClC=1C=NC=C(C1NC(=O)C1=CC=C(C=2N(C3=CC=C(C=C3C12)Cl)CC1=CC=C(C=C1)OC)OC)Cl | C27H20Cl3N3O3
